US06482943B1
Benzyl 5-[(1,2-dihydro-1,2-dioxonaphth-4-yl)oxy]valerate (2)
A mixture of benzyl 5-bromovalerate (2.27 g, 8.4 mmol) and the silver salt of 2-hydroxy-1,4-naphthoquinone (1.63 g, 5.81 mmol) in benzene (8 mL) was stirred for 48 h at 55° C. and filtered through celite. The filtrate was diluted with diethyl ether, extracted with a 20% aqueous solution of NaHSO3 then basified to pH 10-11 with Na2CO3, and extracted with CH2Cl2. Yellow solid (1.334 g, 63%). 1H NMR (CDCl3) 8.12 (d, J=7.5 Hz, 1H), 7.85 (d, J=7.7 Hz, 1H), 7.68 (t, J=7.5, 1H), 7.58 (t, J=7.7 Hz, 1H), 7.25-7.50 (m, 5H), 5.93 (s, 1H), 5.14 (s, 2H), 4.15 (t, J=5.7 Hz, 2H), 2.50 (t, J=7.0 Hz, 2H), 1.8-2.2 (m, 4H).

reactant | benzyl 5-bromovalerate | 8.4 mmol, 2.27 g | BrCCCCC(=O)OCC1=CC=CC=C1 | C12H15BrO2
reactant | 2-hydroxy-1,4-naphthoquinone | 5.81 mmol, 1.63 g | OC=1C(C2=CC=CC=C2C(C1)=O)=O | C10H6O3
solvent | benzene | 8 mL | C1=CC=CC=C1 | C6H6
catalyst | silver | [Ag] | Ag
product | Benzyl 5-[(1,2-dihydro-1,2-dioxonaphth-4-yl)oxy]valerate | O=C1C(C=C(C2=CC=CC=C12)OCCCCC(=O)OCC1=CC=CC=C1)=O | C22H20O5
